US09120749B2
Cyclopropyl[6-(3,5-dichloro-4-hydroxyphenyl)-4-{[trans-4-(dimethylamino)cyclohexyl]methylamino}quinolin-3-yl]methanone
Following general procedure F, (6-bromo-4-{[trans-4-(dimethylamino)cyclohexyl]methylamino}quinolin-3-yl)(cyclopropyl)methanone (66 mg, 0.153 mmol) was reacted with 2,6-dichloro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol (65 mg, 0.230 mmol) to afford the desired product (38 mg, 50%) as a yellow solid: 1H NMR (300 MHz, CD3OD+Acetic Acid-d4) δ 9.24 (s, 1H), 8.49 (d, J=1.7 Hz, 1H), 8.10 (dd, J=8.8, 1.8 Hz, 1H), 7.95 (d, J=8.8 Hz, 1H), 7.68 (s, 2H), 3.90 (d, J=6.5 Hz, 2H), 2.85 (d, J=11.2 Hz, 6H), 2.15 (t, J=11.3 Hz, 4H), 2.01-1.74 (m, 2H), 1.61 (dd, J=21.6, 12.1 Hz, 2H), 1.46-1.07 (m, 7H); ESI MS m/z 512 [C28H31Cl2N3O2+H]+; HPLC 99.0% (AUC), tR=10.65 min.

reactant | (6-bromo-4-{[trans-4-(dimethylamino)cyclohexyl]methylamino}quinolin-3-yl)(cyclopropyl)methanone | 0.153 mmol, 66 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)NC[C@@H]1CC[C@H](CC1)N(C)C | C22H28BrN3O
reactant | 2,6-dichloro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | 0.230 mmol, 65 mg | ClC1=C(C(=CC(=C1)B1OC(C(O1)(C)C)(C)C)Cl)O | C12H15BCl2O3
product | Cyclopropyl[6-(3,5-dichloro-4-hydroxyphenyl)-4-{[trans-4-(dimethylamino)cyclohexyl]methylamino}quinolin-3-yl]methanone | 38 mg, 50% | C1(CC1)C(=O)C=1C=NC2=CC=C(C=C2C1NC[C@@H]1CC[C@H](CC1)N(C)C)C1=CC(=C(C(=C1)Cl)O)Cl | C28H31Cl2N3O2
